US04380544
2 g of 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-propanone are dissolved in 80 ml of toluene. After the addition of 1.05 g of concentrated sulfuric acid and 1.02 g of ethylene glycol, the mixture is heated at reflux. The water which is formed in the course of the reaction is separated using a water separator. After a reaction period of 4, 7 and 12 hours, an additional 1.5 g of ethylene glycol are added each time. After 15 hours, the mixture is cooled, the toluene phase is discarded, the lower viscous phase is diluted with 50 ml of methylene chloride and subsequently poured into 37.5 ml of 1N sodium hydroxide. Then it is back-extracted with methylene chloride and the organic phase is washed and dried over anhydrous sodium sulfate. After removal of the solvent, 3-[2-(2,4-dichloro-α-methyl-benzyl)-1,3-dioxolan-2-yl]pyridine is obtained as a brownish, highly viscous oil.

reactant | 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-propanone | 2 g | ClC1=C(C=CC(=C1)Cl)C(C(=O)C=1C=NC=CC1)C | C14H11Cl2NO
reactant | sulfuric acid | 1.05 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1N, 37.5 ml | [OH-].[Na+]
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ethylene glycol | 1.5 g | C(CO)O | C2H6O2
solvent | water | O | H2O
solvent | ethylene glycol | 1.02 g | C(CO)O | C2H6O2
product | 3-[2-(2,4-dichloro-α-methyl-benzyl)-1,3-dioxolan-2-yl]pyridine | ClC1=C(C(C)C2(OCCO2)C=2C=NC=CC2)C=CC(=C1)Cl | C16H15Cl2NO2
